US06982348B2
To a solution of (2RS,3RS)-3-hydroxy-3-(4-(phenyloxy)phenyl)-2-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)propionic acid (4.3 g, 10.6 mmol) in tetrahydrofuran (80 ml) were added diphenylphosphoryl azide (2.52 ml, 11.7 mmol) and triethylamine (2.23 ml, 16.0 mmol), and the mixture was heated under reflux for 2 hrs. The reaction solution was allowed to cool and water (200 ml) was added. The mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-1:1). Recrystallization from ethyl acetate-hexane gave (4RS,5SR)-5-(4-(phenyloxy)phenyl)-4-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)-1,3-oxazolidin-2-one (3.92 g, 80%).

reactant | (2RS,3RS)-3-hydroxy-3-(4-(phenyloxy)phenyl)-2-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)propionic acid | 10.6 mmol, 4.3 g | OC(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)OC1=CC=CC=C1 | C24H20F4O5
reactant | diphenylphosphoryl azide | 11.7 mmol, 2.52 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 16.0 mmol, 2.23 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-(4-(phenyloxy)phenyl)-4-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)-1,3-oxazolidin-2-one | 3.92 g, 80% | C1(=CC=CC=C1)OC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H19F4NO4
